US07446199B2
3-[4-Phenyl-isoxazol-5-yl]-1H-pyrrolo[2,3-b]pyridine (35)
To a solution of 2-phenyl-1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone (200 mg, 0.85 mmol) in dry THF (5 mL) was added tert-butoxy-N,N,N′,N′-tetramethyl-methanediamine (Bredereck's reagent) (440 mg, 2.52 mmol). The solution was heated at 60° C. for 3 h and evaporated to dry. The resulting residue was dissolved in ethanol (5 mL). To this ethanol solution was then added hydroxylamine hydrochloride (300 mg, 4.32 mmol) and sodium acetate (420 mg, 5.12 mmol). The mixture was heated under reflux for 10 h, cooled, and poured into aqueous NaHCO3 solution. The crude product was collected by filtration and washed with water. After purification by Gilson HPLC, the pure product was obtained as powder (130 mg, 0.50 mmol, 59%).

reactant | 2-phenyl-1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | 0.85 mmol, 200 mg | C1(=CC=CC=C1)CC(=O)C1=CNC2=NC=CC=C21 | C15H12N2O
reactant | tert-butoxy-N,N,N′,N′-tetramethyl-methanediamine | 2.52 mmol, 440 mg | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | hydroxylamine hydrochloride | 4.32 mmol, 300 mg | Cl.NO
reactant | sodium acetate | 5.12 mmol, 420 mg | C(C)(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[4-Phenyl-isoxazol-5-yl]-1H-pyrrolo[2,3-b]pyridine | 0.50 mmol, 130 mg, 59% | C1(=CC=CC=C1)C=1C=NOC1C1=CNC2=NC=CC=C21 | C16H11N3O
